US06562807B2
4-[1-(Cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoic acid methyl ester (3.0 g) was dissolved in absolute ethanol (50 mL), sodium hydroxide (4 N, 15 mL) was added and the reaction mixture was stirred at room temperature for 16 hours. The organic solvent was removed in vacuo, and additional water (50 mL) was added, pH was adjusted with hydrochloric acid (4 N) to acidic reaction and then ethyl acetate (200 mL) was added. The organic phase was washed with water (5×50 mL), dried (magnesium sulphate), filtered and evaporated in vacuo. The residue was recrystallised from acetonitrile (25 mL) to afford 4-[1-(cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoic acid (1.83 g) as crystals.

reactant | 4-[1-(Cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoic acid methyl ester | 3.0 g | COC(C1=CC=C(C=C1)C(C1=C(C=CC=C1)C1CCCCC1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC)=O | C30H31F3N2O4
reactant | sodium hydroxide | 4 N, 15 mL | [OH-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-[1-(cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoic acid | 1.83 g | C1(CCCCC1)C1=C(C=CC=C1)C(C1=CC=C(C(=O)O)C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC | C29H29F3N2O4
